US07560558B2
Compound 405: 4-[6-Methoxy-4-(2-methyl-[1,8]naphthyridin-3-yloxy)-quinolin-7-yloxy]-butan-1-ol
3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine (45 mg) was dissolved in N,N-dimethylformamide (2 ml) to prepare a solution. Potassium carbonate (56 mg) and 4-bromo-1-butanol (62 mg) were added to the solution, and the mixture was stirred at room temperature overnight. The solvent was removed by distillation under the reduced pressure. Water was then added to the residue, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-acetone to give the title compound (19 mg, yield 35%).

reactant | 3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine | 45 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=NC=CC=C2C1)C)OC | C19H15N3O3
reactant | Potassium carbonate | 56 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-1-butanol | 62 mg | BrCCCCO | C4H9BrO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-[6-Methoxy-4-(2-methyl-[1,8]naphthyridin-3-yloxy)-quinolin-7-yloxy]-butan-1-ol | 19 mg, yield 35% | COC=1C=C2C(=CC=NC2=CC1OCCCCO)OC=1C(=NC2=NC=CC=C2C1)C | C23H23N3O4
